US05780482
4-Nitrophenoxyacetic acid (10.2 g) was added to thionyl chloride (50 ml) and the mixture was boiled under reflux for 1.5 hours. Excess thionyl chloride was distilled off and the residue was heated with toluene (2×50 ml) and the toluene removed by distillation to leave an oil which solidified on cooling. The acid chloride was added in portions to a stirred mixture of absolute ethanol (50 ml) and concentrated aqueous ammonia (50 ml, SG 0.880) at 10°-15° C. The mixture was stirred for 45 minutes at 10°-15° C. and then allowed to warm up to ambient temperature. The mixture was filtered to give 4-nitrophenoxyacetamide, m.p. 153°-155° C.

reactant | 4-Nitrophenoxyacetic acid | 10.2 g | [N+](=O)([O-])C1=CC=C(OCC(=O)O)C=C1 | C8H7NO5
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia | 50 ml | N | H3N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-nitrophenoxyacetamide | [N+](=O)([O-])C1=CC=C(OCC(=O)N)C=C1 | C8H8N2O4
